US08211928B2
(S)-tert-Butyl 2-(5-(4-(3-aminobenzo[d] isoxazol-6-yl)phenyl)-1H-imidazol-2-yl)pyrrolidine-1-carboxylate
A mixture of 6-bromobenzo[d]isoxazol-3-amine (1.78 g, 8.36 mmol), (S)-tert-butyl 2-(5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-imidazol-2-yl)pyrrolidine-1-carboxylate (3.95 g, 8.99 mmol), Pd(Ph3P)4 (0.42 g, 0.364 mmol) and NaHCO3 (1.93 g, 23.0 mmol) was suspended in DME (60 mL) and H2O (20 mL) and the solution was degassed by evacuating and back-filling with N2 (repeated 5 times). The mixture was then heated at 70° C. overnight. LCMS indicated the reaction to be incomplete. A further portion of Pd(Ph3P)4 (0.10 g, 0.087 mmol) was added and heating continued for a further 12 h. The cooled reaction mixture was poured into H2O/EtOAc and the layers separated. The aq layer was extracted with EtOAc (×2) and the combined org layers were washed (H2O, brine), then dried (Na2SO4) and concentrated. The residue was purified by BIOTAGE® (TLC 5:4.5:0.5 hexane:EtOAc:MeOH) solvent A was 1:1 hex:EtOAc and solvent B was 20% MeOH in EtOAc to afford a red-orange foam (1.0 g). This material was purified by prep HPLC (CH3CN—H2O—NH4OAc) giving a light yellow foam (404.4 mg, 11%). 1H NMR (400 MHz, DMSO-d6) δ 11.85-12.21 (m, 1H), 7.85 (app t, J=8.0, 8.6, 2H), 7.72-7.73 (m, 4H), 7.54-7.60 (m, 2H), 6.41 (s, 2H), 4.76-4.83 (m, 1H), 3.54 (s, br, 1H), 3.31-3.37 (m, 1H, partially obscured by H2O), 2.14-2.25 (m, 1H), 1.79-2.04 (m, 3H), 1.40, 1.15 (s, 9H, rotamers). LCMS: Anal, Calcd. for C25H27N5O3: 445; found: 446 (M+H)+.

reactant | 6-bromobenzo[d]isoxazol-3-amine | 8.36 mmol, 1.78 g | BrC1=CC2=C(C(=NO2)N)C=C1 | C7H5BrN2O
reactant | (S)-tert-butyl 2-(5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-imidazol-2-yl)pyrrolidine-1-carboxylate | 8.99 mmol, 3.95 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C1=CN=C(N1)[C@H]1N(CCC1)C(=O)OC(C)(C)C)C | C24H34BN3O4
reactant | NaHCO3 | 23.0 mmol, 1.93 g | C(=O)(O)[O-].[Na+]
reactant | H2O EtOAc | O.CCOC(=O)C
solvent | DME | 60 mL | COCCOC | C4H10O2
catalyst | Pd(Ph3P)4 | 0.364 mmol, 0.42 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Pd(Ph3P)4 | 0.087 mmol, 0.10 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-tert-Butyl 2-(5-(4-(3-aminobenzo[d] isoxazol-6-yl)phenyl)-1H-imidazol-2-yl)pyrrolidine-1-carboxylate | 1.0 g | NC1=NOC2=C1C=CC(=C2)C2=CC=C(C=C2)C2=CN=C(N2)[C@H]2N(CCC2)C(=O)OC(C)(C)C | C25H27N5O3
